US06310208B1
15.1 g (46.4 mmol) of ethyl 3-(4-ethyl-3,5-dimethoxy-phenyl)-4-nitro-butanoate dissolved in 300 ml of ethanol were hydrogenated on Raney-nickel while stirring over a period of 2.5 hours. The catalyst was filtered off, washed several times with ethanol and the combined ethanol phases were concentrated in a vacuum to a volume of 200 ml. The reaction mixture was treated with 1.7 g of sodium acetate and 50 mg of p-toluenesulphonic acid and heated under reflux over 24 hours. Subsequently, the mixture was concentrated in a vacuum and the residue was purified by column chromatography on silica gel (methylene chloride/methanol 19:1). 8.85 g (76%) of 4-(4-ethyl-3,5-dimethoxy-phenyl)-pyrrolidin-2-one were obtained as a beige solid with m.p. 156°.

reactant | ethyl 3-(4-ethyl-3,5-dimethoxy-phenyl)-4-nitro-butanoate | 46.4 mmol, 15.1 g | C(C)C1=C(C=C(C=C1OC)C(CC(=O)OCC)C[N+](=O)[O-])OC | C16H23NO6
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 4-(4-ethyl-3,5-dimethoxy-phenyl)-pyrrolidin-2-one | 8.85 g, 76% | C(C)C1=C(C=C(C=C1OC)C1CC(NC1)=O)OC | C14H19NO3
